US07105507B2
1-(1,1-Dimethylethyl) 4-Ethyl 4-(2-Methyl-2-propenyl)-1,4-piperidinedicarboxylate
A solution of 1-(1,1-dimethylethyl) 4-ethyl 1,4-piperidinedicarboxylate (12.85 g, 50 mmol) in tetrahydrofuran (50 mL) was added slowly to a stirred, cooled (−78° C.) solution of potassium hexamethyldisilazide (14.96 g, 75 mmol) in tetrahydrofuran (75 mL), maintaining the internal temperature below −65° C. The mixture was stirred at −78° C. for 30 minutes, then 3-bromo-2-methylpropene (7.56 mL, 10.12 g, 75 mmol) was added dropwise over 5 minutes. The mixture was stirred at −78° C. for 1 hour, then saturated aqueous ammonium chloride (200 mL) was added and the mixture was warmed to room temperature. Water (100 mL) was added and the mixture was extracted with ethyl acetate (3×200 mL). The combined organic fractions were washed with aqueous citric acid (10%, 3×200 mL), saturated aqueous sodium hydrogen carbonate (200 mL) and brine (200 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a pale yellow oil (15.48 g, 99%). m/z (ES+) 256 (M+1-C4H8).

reactant | 1-(1,1-dimethylethyl) 4-ethyl 1,4-piperidinedicarboxylate | 50 mmol, 12.85 g | N1(CCC(CC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | potassium hexamethyldisilazide | 75 mmol, 14.96 g | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | 3-bromo-2-methylpropene | 75 mmol, 7.56 mL, 10.12 g | BrCC(=C)C | C4H7Br
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | Water | 100 mL | O | H2O
product | 1-(1,1-Dimethylethyl) 4-Ethyl 4-(2-Methyl-2-propenyl)-1,4-piperidinedicarboxylate | 15.48 g, 99% | CC(CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC)=C | C17H29NO4
